US04018802
Step D. Preparation of 8-methylsulfonyl-12-hydroxy-5-heptadecynoic acid
Methyl 8-methylsulfonyl-12-acetoxy-5-heptadecynoate (41.6 g., 0.10 mole) is added to a solution of sodium hydroxide (12.0 g., 0.3 mole) in water (120 ml.) and methanol (600 ml.). The resulting solution is heated at 55°-60° C. for 24 hours. Most of the methanol is removed by evaporation in vacuo. The residue is diluted with water and extracted with ether. The aqueous solution is acidified with concentrated hydrochloric acid. The product which separates is taken up in ether, washed with water and dried over sodium sulfate. Evaporation of the ether in vacuo leaves the title compound as a viscous yellow oil. Purification is effected by column chromatography on silica gel with 2% methanol in chloroform as eluant. The title compound is obtained as a nearly colorless viscous oil.

reactant | Methyl 8-methylsulfonyl-12-acetoxy-5-heptadecynoate | 0.10 mole, 41.6 g | CS(=O)(=O)C(CC#CCCCC(=O)OC)CCCC(CCCCC)OC(C)=O | C21H36O6S
reactant | sodium hydroxide | 0.3 mole, 12.0 g | [OH-].[Na+]
solvent | water | 120 ml | O | H2O
solvent | methanol | 600 ml | CO | CH4O
product | 8-methylsulfonyl-12-hydroxy-5-heptadecynoic acid | CS(=O)(=O)C(CC#CCCCC(=O)O)CCCC(CCCCC)O | C18H32O5S
